### PR TITLE
feat(Topology/MetricSpace/Pseudo/Defs): add easy lemma about opens in topological spaces

### PR DESCRIPTION
**Pull request by Paul-Lez**
Split from #26992

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/MetricSpace/Pseudo/Defs.lean [hunk 1]
```diff
@@ -773,6 +773,15 @@ theorem isOpen_iff : IsOpen s ↔ ∀ x ∈ s, ∃ ε > 0, ball x ε ⊆ s := by
 theorem ball_mem_nhds (x : α) {ε : ℝ} (ε0 : 0 < ε) : ball x ε ∈ 𝓝 x :=
   isOpen_ball.mem_nhds (mem_ball_self ε0)
 
+/-- `Metric.isOpen_iff`, but for closed balls. -/
+theorem isOpen_iff' {s : Set α} : IsOpen s ↔ ∀ x ∈ s, ∃ ε > 0, Metric.closedBall x ε ⊆ s := by
+  rw [Metric.isOpen_iff]
+  refine ⟨fun H x hx => ?_, fun H x hx => ?_⟩
```
Comment (grunweg) [inline Mathlib/Topology/MetricSpace/Pseudo/Defs.lean:779]: Can you use the `peel` tactic to golf this?

**Review by grunweg — COMMENTED** [review]
Thanks for the PR! I'm unsure if this lemma is useful (doing epsilon-delta proofs is natural, coming from standard textbook mathematics, but often filters are a better abstraction and your proofs become both shorter and more elegant this way).

**Comment by grunweg** [comment]
Can you perhaps point to a place where you're really using this?

**Comment by Paul-Lez** [comment]
Currently I use this lemma on line 251 of file `Mathlib/Analysis/PDE/Quasilinear/Characteristics.lean` in #25710. 
Admittedly this is a rather ungolfed proof (I do plan on reworking it somewhat before removing the WIP tag from that PR:)), so I wouldn't be surprised if there's a cleaner way of doing this with filters!
